*-- pdngen: spice deck generated for chip 'chiplet8' PDN
*-- die chiplet8:  W/H: 0.002/0.002
*-- die chiplet8:  metal layers: 2


.subckt chiplet8
+ns_pad_port_0_0
+nd_pad_port_0_1
+ns_pad_port_0_2
+nd_pad_port_0_3
+nd_pad_port_1_0
+ns_pad_port_1_1
+nd_pad_port_1_2
+ns_pad_port_1_3
+ns_pad_port_2_0
+nd_pad_port_2_1
+ns_pad_port_2_2
+nd_pad_port_2_3
+nd_pad_port_3_0
+ns_pad_port_3_1
+nd_pad_port_3_2
+ns_pad_port_3_3
*-- p/g port #: 8/8
+nd_1_0_3000_3000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
rs_1_2_0_0_0 ns_1_0_0_0 ns_1_0_2000_0 0.016324
rs_1_2_0_0_1 ns_1_0_2000_0 ns_1_0_4000_0 0.016324
rs_1_2_0_0_2 ns_1_0_4000_0 ns_1_0_6000_0 0.016324
rs_1_2_0_0_3 ns_1_0_6000_0 ns_1_0_8000_0 0.016324
rs_1_2_0_1_0 ns_1_0_0_2000 ns_1_0_2000_2000 0.016324
rs_1_2_0_1_1 ns_1_0_2000_2000 ns_1_0_4000_2000 0.016324
rs_1_2_0_1_2 ns_1_0_4000_2000 ns_1_0_6000_2000 0.016324
rs_1_2_0_1_3 ns_1_0_6000_2000 ns_1_0_8000_2000 0.016324
rs_1_2_0_2_0 ns_1_0_0_4000 ns_1_0_2000_4000 0.016324
rs_1_2_0_2_1 ns_1_0_2000_4000 ns_1_0_4000_4000 0.016324
rs_1_2_0_2_2 ns_1_0_4000_4000 ns_1_0_6000_4000 0.016324
rs_1_2_0_2_3 ns_1_0_6000_4000 ns_1_0_8000_4000 0.016324
rs_1_2_0_3_0 ns_1_0_0_6000 ns_1_0_2000_6000 0.016324
rs_1_2_0_3_1 ns_1_0_2000_6000 ns_1_0_4000_6000 0.016324
rs_1_2_0_3_2 ns_1_0_4000_6000 ns_1_0_6000_6000 0.016324
rs_1_2_0_3_3 ns_1_0_6000_6000 ns_1_0_8000_6000 0.016324
rs_1_2_0_4_0 ns_1_0_0_8000 ns_1_0_2000_8000 0.016324
rs_1_2_0_4_1 ns_1_0_2000_8000 ns_1_0_4000_8000 0.016324
rs_1_2_0_4_2 ns_1_0_4000_8000 ns_1_0_6000_8000 0.016324
rs_1_2_0_4_3 ns_1_0_6000_8000 ns_1_0_8000_8000 0.016324
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
rs_2_1_0_0_0 ns_2_0_0_0 ns_2_0_0_2000 0.016324
rs_2_1_0_0_1 ns_2_0_0_2000 ns_2_0_0_4000 0.016324
rs_2_1_0_0_2 ns_2_0_0_4000 ns_2_0_0_6000 0.016324
rs_2_1_0_0_3 ns_2_0_0_6000 ns_2_0_0_8000 0.016324
rs_2_1_0_1_0 ns_2_0_2000_0 ns_2_0_2000_2000 0.016324
rs_2_1_0_1_1 ns_2_0_2000_2000 ns_2_0_2000_4000 0.016324
rs_2_1_0_1_2 ns_2_0_2000_4000 ns_2_0_2000_6000 0.016324
rs_2_1_0_1_3 ns_2_0_2000_6000 ns_2_0_2000_8000 0.016324
rs_2_1_0_2_0 ns_2_0_4000_0 ns_2_0_4000_2000 0.016324
rs_2_1_0_2_1 ns_2_0_4000_2000 ns_2_0_4000_4000 0.016324
rs_2_1_0_2_2 ns_2_0_4000_4000 ns_2_0_4000_6000 0.016324
rs_2_1_0_2_3 ns_2_0_4000_6000 ns_2_0_4000_8000 0.016324
rs_2_1_0_3_0 ns_2_0_6000_0 ns_2_0_6000_2000 0.016324
rs_2_1_0_3_1 ns_2_0_6000_2000 ns_2_0_6000_4000 0.016324
rs_2_1_0_3_2 ns_2_0_6000_4000 ns_2_0_6000_6000 0.016324
rs_2_1_0_3_3 ns_2_0_6000_6000 ns_2_0_6000_8000 0.016324
rs_2_1_0_4_0 ns_2_0_8000_0 ns_2_0_8000_2000 0.016324
rs_2_1_0_4_1 ns_2_0_8000_2000 ns_2_0_8000_4000 0.016324
rs_2_1_0_4_2 ns_2_0_8000_4000 ns_2_0_8000_6000 0.016324
rs_2_1_0_4_3 ns_2_0_8000_6000 ns_2_0_8000_8000 0.016324
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rvs_1_0_0_0 ns_1_0_0_0 ns_2_0_0_0 0.005
rvs_1_0_0_1 ns_1_0_2000_0 ns_2_0_2000_0 0.005
rvs_1_0_0_2 ns_1_0_4000_0 ns_2_0_4000_0 0.005
rvs_1_0_0_3 ns_1_0_6000_0 ns_2_0_6000_0 0.005
rvs_1_0_0_4 ns_1_0_8000_0 ns_2_0_8000_0 0.005
rvs_1_0_1_0 ns_1_0_0_2000 ns_2_0_0_2000 0.005
rvs_1_0_1_1 ns_1_0_2000_2000 ns_2_0_2000_2000 0.005
rvs_1_0_1_2 ns_1_0_4000_2000 ns_2_0_4000_2000 0.005
rvs_1_0_1_3 ns_1_0_6000_2000 ns_2_0_6000_2000 0.005
rvs_1_0_1_4 ns_1_0_8000_2000 ns_2_0_8000_2000 0.005
rvs_1_0_2_0 ns_1_0_0_4000 ns_2_0_0_4000 0.005
rvs_1_0_2_1 ns_1_0_2000_4000 ns_2_0_2000_4000 0.005
rvs_1_0_2_2 ns_1_0_4000_4000 ns_2_0_4000_4000 0.005
rvs_1_0_2_3 ns_1_0_6000_4000 ns_2_0_6000_4000 0.005
rvs_1_0_2_4 ns_1_0_8000_4000 ns_2_0_8000_4000 0.005
rvs_1_0_3_0 ns_1_0_0_6000 ns_2_0_0_6000 0.005
rvs_1_0_3_1 ns_1_0_2000_6000 ns_2_0_2000_6000 0.005
rvs_1_0_3_2 ns_1_0_4000_6000 ns_2_0_4000_6000 0.005
rvs_1_0_3_3 ns_1_0_6000_6000 ns_2_0_6000_6000 0.005
rvs_1_0_3_4 ns_1_0_8000_6000 ns_2_0_8000_6000 0.005
rvs_1_0_4_0 ns_1_0_0_8000 ns_2_0_0_8000 0.005
rvs_1_0_4_1 ns_1_0_2000_8000 ns_2_0_2000_8000 0.005
rvs_1_0_4_2 ns_1_0_4000_8000 ns_2_0_4000_8000 0.005
rvs_1_0_4_3 ns_1_0_6000_8000 ns_2_0_6000_8000 0.005
rvs_1_0_4_4 ns_1_0_8000_8000 ns_2_0_8000_8000 0.005
id_0_0_0_0 nd_1_0_1000_1000 0 pwl(0 0.0 4.076e-02ns 0.0  9.076e-02ns 2.4e-03  8.660e-01ns 2.4e-03  9.160e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 45.1702
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 1.48537e-12
id_0_0_0_1 nd_1_0_3000_1000 0 pwl(0 0.0 2.430e-01ns 0.0  2.930e-01ns 2.9e-02  3.822e-01ns 2.9e-02  4.322e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 22.6731
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 6.24194e-12
id_0_0_0_2 nd_1_0_5000_1000 0 pwl(0 0.0 3.823e-01ns 0.0  4.323e-01ns 5.9e-02  5.052e-01ns 5.9e-02  5.552e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 12.4499
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 5.69194e-12
id_0_0_0_3 nd_1_0_7000_1000 0 pwl(0 0.0 3.841e-01ns 0.0  4.341e-01ns 7.0e-03  5.834e-01ns 7.0e-03  6.334e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 64.4842
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 1.11803e-12
id_0_0_0_4 nd_1_0_9000_1000 0 pwl(0 0.0 5.234e-01ns 0.0  5.734e-01ns 8.4e-03  9.270e-01ns 8.4e-03  9.770e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 26.7055
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 1.02606e-13
id_0_0_0_5 nd_1_0_1000_3000 0 pwl(0 0.0 6.566e-01ns 0.0  7.066e-01ns 7.3e-03  9.372e-01ns 7.3e-03  9.872e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 43.7567
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 3.03429e-12
id_0_0_0_6 nd_1_0_3000_3000 0 pwl(0 0.0 2.155e-01ns 0.0  2.655e-01ns 1.6e-03  6.721e-01ns 1.6e-03  7.221e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 122.582
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 1.0993e-12
id_0_0_0_7 nd_1_0_5000_3000 0 pwl(0 0.0 8.038e-01ns 0.0  8.538e-01ns 1.2e-01  8.774e-01ns 1.2e-01  9.274e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 10.4842
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 1.57352e-11
id_0_0_0_8 nd_1_0_7000_3000 0 pwl(0 0.0 4.838e-01ns 0.0  5.338e-01ns 4.1e-03  8.481e-01ns 4.1e-03  8.981e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 60.764
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 3.19078e-12
id_0_0_0_9 nd_1_0_9000_3000 0 pwl(0 0.0 4.947e-01ns 0.0  5.447e-01ns 2.2e-02  7.083e-01ns 2.2e-02  7.583e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 19.2551
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 5.00667e-12
id_0_0_0_10 nd_1_0_1000_5000 0 pwl(0 0.0 6.263e-01ns 0.0  6.763e-01ns 3.9e-02  8.291e-01ns 3.9e-02  8.791e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 11.3188
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 1.11105e-11
id_0_0_0_11 nd_1_0_3000_5000 0 pwl(0 0.0 7.625e-01ns 0.0  8.125e-01ns 4.5e-02  9.097e-01ns 4.5e-02  9.597e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 13.4663
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 4.22466e-12
id_0_0_0_12 nd_1_0_5000_5000 0 pwl(0 0.0 8.980e-01ns 0.0  9.480e-01ns 1.7e-01  9.980e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 10.4137
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 8.31835e-12
id_0_0_0_13 nd_1_0_7000_5000 0 pwl(0 0.0 1.307e-01ns 0.0  1.807e-01ns 2.2e-02  4.587e-01ns 2.2e-02  5.087e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 12.2592
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 1.41064e-12
id_0_0_0_14 nd_1_0_9000_5000 0 pwl(0 0.0 5.929e-01ns 0.0  6.429e-01ns 7.3e-03  8.013e-01ns 7.3e-03  8.513e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 59.0168
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 1.99595e-12
id_0_0_0_15 nd_1_0_1000_7000 0 pwl(0 0.0 2.743e-01ns 0.0  3.243e-01ns 1.9e-03  4.299e-01ns 1.9e-03  4.799e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 300.461
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 4.91905e-13
id_0_0_0_16 nd_1_0_3000_7000 0 pwl(0 0.0 8.604e-01ns 0.0  9.104e-01ns 3.5e-02  9.230e-01ns 3.5e-02  9.730e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 41.2478
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 1.90143e-12
id_0_0_0_17 nd_1_0_5000_7000 0 pwl(0 0.0 9.754e-02ns 0.0  1.475e-01ns 2.2e-03  5.182e-01ns 2.2e-03  5.682e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 96.8387
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 8.22901e-14
id_0_0_0_18 nd_1_0_7000_7000 0 pwl(0 0.0 2.346e-01ns 0.0  2.846e-01ns 2.4e-02  6.040e-01ns 2.4e-02  6.540e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 10.3265
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 2.45766e-12
id_0_0_0_19 nd_1_0_9000_7000 0 pwl(0 0.0 7.582e-01ns 0.0  8.082e-01ns 5.8e-02  8.875e-01ns 5.8e-02  9.375e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 12.061
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 1.28857e-11
id_0_0_0_20 nd_1_0_1000_9000 0 pwl(0 0.0 3.157e-01ns 0.0  3.657e-01ns 2.8e-02  4.889e-01ns 2.8e-02  5.389e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 18.3686
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 8.51285e-12
id_0_0_0_21 nd_1_0_3000_9000 0 pwl(0 0.0 4.499e-01ns 0.0  4.999e-01ns 3.8e-02  6.624e-01ns 3.8e-02  7.124e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 11.1021
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 1.67811e-11
id_0_0_0_22 nd_1_0_5000_9000 0 pwl(0 0.0 1.360e-01ns 0.0  1.860e-01ns 4.0e-02  1.935e-01ns 4.0e-02  2.435e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 38.8413
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 3.00861e-12
id_0_0_0_23 nd_1_0_7000_9000 0 pwl(0 0.0 2.777e-01ns 0.0  3.277e-01ns 8.8e-02  3.412e-01ns 8.8e-02  3.912e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 16.1865
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 2.93864e-12
id_0_0_0_24 nd_1_0_9000_9000 0 pwl(0 0.0 8.538e-01ns 0.0  9.038e-01ns 3.7e-02  9.349e-01ns 3.7e-02  9.849e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 29.9174
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 2.58341e-12
is_0_0_0_0 0 ns_1_0_0_0 pwl(0 0.0 8.377e-01ns 0.0  8.877e-01ns 7.7e-02  9.367e-01ns 7.7e-02  9.867e-01ns 0.0)
rsesr_0_0_0_0 ns_1_0_0_0 ns_1_0_0_0_ci 11.806
cs_0_0_0_0 ns_1_0_0_0_ci 0 1.45863e-11
is_0_0_0_1 0 ns_1_0_2000_0 pwl(0 0.0 8.424e-01ns 0.0  8.924e-01ns 6.8e-02  9.384e-01ns 6.8e-02  9.884e-01ns 0.0)
rsesr_0_0_0_1 ns_1_0_2000_0 ns_1_0_2000_0_ci 13.8181
cs_0_0_0_1 ns_1_0_2000_0_ci 0 1.26102e-11
is_0_0_0_2 0 ns_1_0_4000_0 pwl(0 0.0 5.259e-01ns 0.0  5.759e-01ns 3.6e-03  9.285e-01ns 3.6e-03  9.785e-01ns 0.0)
rsesr_0_0_0_2 ns_1_0_4000_0 ns_1_0_4000_0_ci 61.8574
cs_0_0_0_2 ns_1_0_4000_0_ci 0 6.71244e-14
is_0_0_0_3 0 ns_1_0_6000_0 pwl(0 0.0 2.151e-01ns 0.0  2.651e-01ns 8.3e-04  5.772e-01ns 8.3e-04  6.272e-01ns 0.0)
rsesr_0_0_0_3 ns_1_0_6000_0 ns_1_0_6000_0_ci 298.763
cs_0_0_0_3 ns_1_0_6000_0_ci 0 1.15207e-13
is_0_0_0_4 0 ns_1_0_8000_0 pwl(0 0.0 2.204e-01ns 0.0  2.704e-01ns 4.9e-02  3.425e-01ns 4.9e-02  3.925e-01ns 0.0)
rsesr_0_0_0_4 ns_1_0_8000_0 ns_1_0_8000_0_ci 15.111
cs_0_0_0_4 ns_1_0_8000_0_ci 0 8.9832e-12
is_0_0_0_5 0 ns_1_0_0_2000 pwl(0 0.0 3.563e-01ns 0.0  4.063e-01ns 1.9e-03  8.162e-01ns 1.9e-03  8.662e-01ns 0.0)
rsesr_0_0_0_5 ns_1_0_0_2000 ns_1_0_0_2000_ci 101.413
cs_0_0_0_5 ns_1_0_0_2000_ci 0 6.55691e-13
is_0_0_0_6 0 ns_1_0_2000_2000 pwl(0 0.0 4.293e-02ns 0.0  9.293e-02ns 4.5e-03  8.685e-01ns 4.5e-03  9.185e-01ns 0.0)
rsesr_0_0_0_6 ns_1_0_2000_2000 ns_1_0_2000_2000_ci 24.1566
cs_0_0_0_6 ns_1_0_2000_2000_ci 0 3.98223e-12
is_0_0_0_7 0 ns_1_0_4000_2000 pwl(0 0.0 4.983e-01ns 0.0  5.483e-01ns 2.5e-02  7.138e-01ns 2.5e-02  7.638e-01ns 0.0)
rsesr_0_0_0_7 ns_1_0_4000_2000 ns_1_0_4000_2000_ci 16.5703
cs_0_0_0_7 ns_1_0_4000_2000_ci 0 1.2013e-11
is_0_0_0_8 0 ns_1_0_6000_2000 pwl(0 0.0 1.882e-01ns 0.0  2.382e-01ns 4.4e-02  2.862e-01ns 4.4e-02  3.362e-01ns 0.0)
rsesr_0_0_0_8 ns_1_0_6000_2000 ns_1_0_6000_2000_ci 20.7759
cs_0_0_0_8 ns_1_0_6000_2000_ci 0 6.17538e-12
is_0_0_0_9 0 ns_1_0_8000_2000 pwl(0 0.0 7.744e-01ns 0.0  8.244e-01ns 9.3e-02  8.513e-01ns 9.3e-02  9.013e-01ns 0.0)
rsesr_0_0_0_9 ns_1_0_8000_2000 ns_1_0_8000_2000_ci 12.5428
cs_0_0_0_9 ns_1_0_8000_2000_ci 0 2.36261e-12
is_0_0_0_10 0 ns_1_0_0_4000 pwl(0 0.0 3.283e-01ns 0.0  3.783e-01ns 3.4e-02  5.076e-01ns 3.4e-02  5.576e-01ns 0.0)
rsesr_0_0_0_10 ns_1_0_0_4000 ns_1_0_0_4000_ci 14.9178
cs_0_0_0_10 ns_1_0_0_4000_ci 0 4.00573e-12
is_0_0_0_11 0 ns_1_0_2000_4000 pwl(0 0.0 1.412e-02ns 0.0  6.412e-02ns 9.4e-03  8.397e-01ns 9.4e-03  8.897e-01ns 0.0)
rsesr_0_0_0_11 ns_1_0_2000_4000 ns_1_0_2000_4000_ci 11.586
cs_0_0_0_11 ns_1_0_2000_4000_ci 0 1.63906e-11
is_0_0_0_12 0 ns_1_0_4000_4000 pwl(0 0.0 6.013e-01ns 0.0  6.513e-01ns 8.6e-03  9.147e-01ns 8.6e-03  9.647e-01ns 0.0)
rsesr_0_0_0_12 ns_1_0_4000_4000 ns_1_0_4000_4000_ci 33.5632
cs_0_0_0_12 ns_1_0_4000_4000_ci 0 3.1717e-12
is_0_0_0_13 0 ns_1_0_6000_4000 pwl(0 0.0 2.226e-01ns 0.0  2.726e-01ns 1.2e-02  6.825e-01ns 1.2e-02  7.325e-01ns 0.0)
rsesr_0_0_0_13 ns_1_0_6000_4000 ns_1_0_6000_4000_ci 16.2952
cs_0_0_0_13 ns_1_0_6000_4000_ci 0 8.37584e-12
is_0_0_0_14 0 ns_1_0_8000_4000 pwl(0 0.0 6.821e-01ns 0.0  7.321e-01ns 2.4e-02  8.676e-01ns 2.4e-02  9.176e-01ns 0.0)
rsesr_0_0_0_14 ns_1_0_8000_4000 ns_1_0_8000_4000_ci 20.2775
cs_0_0_0_14 ns_1_0_8000_4000_ci 0 1.92352e-12
is_0_0_0_15 0 ns_1_0_0_6000 pwl(0 0.0 3.694e-01ns 0.0  4.194e-01ns 3.2e-02  5.612e-01ns 3.2e-02  6.112e-01ns 0.0)
rsesr_0_0_0_15 ns_1_0_0_6000 ns_1_0_0_6000_ci 14.6123
cs_0_0_0_15 ns_1_0_0_6000_ci 0 1.15006e-11
is_0_0_0_16 0 ns_1_0_2000_6000 pwl(0 0.0 5.122e-02ns 0.0  1.012e-01ns 1.3e-03  8.805e-01ns 1.3e-03  9.305e-01ns 0.0)
rsesr_0_0_0_16 ns_1_0_2000_6000 ns_1_0_2000_6000_ci 86.605
cs_0_0_0_16 ns_1_0_2000_6000_ci 0 2.28994e-12
is_0_0_0_17 0 ns_1_0_4000_6000 pwl(0 0.0 6.376e-01ns 0.0  6.876e-01ns 1.3e-02  9.308e-01ns 1.3e-02  9.808e-01ns 0.0)
rsesr_0_0_0_17 ns_1_0_4000_6000 ns_1_0_4000_6000_ci 23.2993
cs_0_0_0_17 ns_1_0_4000_6000_ci 0 5.51812e-12
is_0_0_0_18 0 ns_1_0_6000_6000 pwl(0 0.0 6.466e-01ns 0.0  6.966e-01ns 3.4e-02  8.418e-01ns 3.4e-02  8.918e-01ns 0.0)
rsesr_0_0_0_18 ns_1_0_6000_6000 ns_1_0_6000_6000_ci 13.3901
cs_0_0_0_18 ns_1_0_6000_6000_ci 0 2.28358e-12
is_0_0_0_19 0 ns_1_0_8000_6000 pwl(0 0.0 7.812e-01ns 0.0  8.312e-01ns 5.8e-02  8.584e-01ns 5.8e-02  9.084e-01ns 0.0)
rsesr_0_0_0_19 ns_1_0_8000_6000 ns_1_0_8000_6000_ci 20.2393
cs_0_0_0_19 ns_1_0_8000_6000_ci 0 2.97601e-12
is_0_0_0_20 0 ns_1_0_0_8000 pwl(0 0.0 4.698e-01ns 0.0  5.198e-01ns 1.7e-02  8.943e-01ns 1.7e-02  9.443e-01ns 0.0)
rsesr_0_0_0_20 ns_1_0_0_8000 ns_1_0_0_8000_ci 12.3215
cs_0_0_0_20 ns_1_0_0_8000_ci 0 7.37324e-12
is_0_0_0_21 0 ns_1_0_2000_8000 pwl(0 0.0 6.029e-01ns 0.0  6.529e-01ns 3.0e-02  8.089e-01ns 3.0e-02  8.589e-01ns 0.0)
rsesr_0_0_0_21 ns_1_0_2000_8000 ns_1_0_2000_8000_ci 14.5349
cs_0_0_0_21 ns_1_0_2000_8000_ci 0 1.41494e-12
is_0_0_0_22 0 ns_1_0_4000_8000 pwl(0 0.0 2.885e-01ns 0.0  3.385e-01ns 2.8e-03  6.652e-01ns 2.8e-03  7.152e-01ns 0.0)
rsesr_0_0_0_22 ns_1_0_4000_8000 ns_1_0_4000_8000_ci 84.1082
cs_0_0_0_22 ns_1_0_4000_8000_ci 0 1.78553e-12
is_0_0_0_23 0 ns_1_0_6000_8000 pwl(0 0.0 2.919e-01ns 0.0  3.419e-01ns 1.8e-02  4.522e-01ns 1.8e-02  5.022e-01ns 0.0)
rsesr_0_0_0_23 ns_1_0_6000_8000 ns_1_0_6000_8000_ci 31.9307
cs_0_0_0_23 ns_1_0_6000_8000_ci 0 4.7867e-12
is_0_0_0_24 0 ns_1_0_8000_8000 pwl(0 0.0 4.315e-01ns 0.0  4.815e-01ns 7.9e-03  6.403e-01ns 7.9e-03  6.903e-01ns 0.0)
rsesr_0_0_0_24 ns_1_0_8000_8000 ns_1_0_8000_8000_ci 54.4722
cs_0_0_0_24 ns_1_0_8000_8000_ci 0 3.35557e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val164'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val165'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val166'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val167'
rd_add0 nd0 0 'esr43'
rd_add1 nd1 0 'esr44'
rd_add2 nd2 0 'esr45'
rd_add3 nd3 0 'esr46'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xs_pad_0_0 ns_pad_port_0_0 ns_pad_0_0 ubump_subckt
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xs_pad_0_2 ns_pad_port_0_2 ns_pad_0_2 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xs_pad_1_1 ns_pad_port_1_1 ns_pad_1_1 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xs_pad_1_3 ns_pad_port_1_3 ns_pad_1_3 ubump_subckt
xs_pad_2_0 ns_pad_port_2_0 ns_pad_2_0 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xs_pad_2_2 ns_pad_port_2_2 ns_pad_2_2 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xs_pad_3_1 ns_pad_port_3_1 ns_pad_3_1 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xs_pad_3_3 ns_pad_port_3_3 ns_pad_3_3 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rs_pad2via_0_0 ns_pad_0_0 ns_2_0_2000_2000  0.001
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rs_pad2via_0_2 ns_pad_0_2 ns_2_0_2000_6000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rs_pad2via_1_1 ns_pad_1_1 ns_2_0_4000_4000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rs_pad2via_1_3 ns_pad_1_3 ns_2_0_4000_8000  0.001
rs_pad2via_2_0 ns_pad_2_0 ns_2_0_6000_2000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rs_pad2via_2_2 ns_pad_2_2 ns_2_0_6000_6000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rs_pad2via_3_1 ns_pad_3_1 ns_2_0_8000_4000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001
rs_pad2via_3_3 ns_pad_3_3 ns_2_0_8000_8000  0.001

.ends chiplet8
